US04205085
To 15 g. 4-[15-(trifluoromethyl)pentadecylamino]benzoic acid in 200 ml. warm chloroform is added a solution of 15 g. of sodium carbonate in 150 ml. water. To the vigorously stirred solution is added 10 g. carbobenzyloxy chloride. After 2 hours stirring at 40° C., the layers are separated, washed three times with 1N hydrochloric acid, dried, and evaporated to an oil. The oil is dissolved in 300 ml. toluene, treated with 15 ml. thionyl chloride and the solution is refluxed for 5 hours. The solvents are evaporated and the residue is dissolved three times in toluene, evaporating each time, ultimately to yield 4-[N-carbobenzyloxy-15-(trifluoromethyl)pentadecylamino]benzoyl chloride as a viscous, orange oil.

reactant | 4-[15-(trifluoromethyl)pentadecylamino]benzoic acid | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1)(F)F | C23H36F3NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbobenzyloxy chloride | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | water | O | H2O
product | 4-[N-carbobenzyloxy-15-(trifluoromethyl)pentadecylamino]benzoyl chloride | C(=O)(OCC1=CC=CC=C1)N(C1=CC=C(C(=O)Cl)C=C1)CCCCCCCCCCCCCCCC(F)(F)F | C31H41ClF3NO3
